US08486967B2
a) tert-Butyl 4-carbamoyl-4-methylpiperidine-1-carboxylate
To a solution of 1-(tert-butoxycarbonyl)-4-methylpiperidine-4-carboxylic acid (2.85 g, 11.7 mmol) in DMF (57 mL) was added CDI (2.28 g, 14.1 mmol). The mixture was stirred at 60° C. for 30 minutes, then cooled to room temperature. Ammonium hydroxide (18.2 mL, 117 mmol) was added cautiously and stirring continued for 1 hour. The mixture was then evaporated to give a colourless oil. It was extracted with ethyl acetate and the organic layer washed with HCl (1 M), with water, sodium hydrogen carbonate solution, brine, dried over sodium sulfate, filtered and evaporated. The residue was taken up in toluene, then hexane was added and the mixture was stirred at room temperature for 15 minutes. The precipitate was filtered, washed with hexane and dried to give the title compound (2.55 g, 90%) as a white solid.

reactant | 1-(tert-butoxycarbonyl)-4-methylpiperidine-4-carboxylic acid | 11.7 mmol, 2.85 g | C(C)(C)(C)OC(=O)N1CCC(CC1)(C(=O)O)C | C12H21NO4
reactant | CDI | 14.1 mmol, 2.28 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | Ammonium hydroxide | 117 mmol, 18.2 mL | [OH-].[NH4+]
solvent | DMF | 57 mL | CN(C)C=O | C3H7NO
product | tert-Butyl 4-carbamoyl-4-methylpiperidine-1-carboxylate | 2.55 g, 90% | C(N)(=O)C1(CCN(CC1)C(=O)OC(C)(C)C)C | C12H22N2O3
